US06624336B1
Into a 500 ml-volume glass-made reactor equipped with a condenser tube, 5.00 g of 2,3,5,6-tetrafluorobenzonitrile, 51.00 g of methanol, 52.00 g of water, 45.00 g of acetic acid and 0.50 g of sponge nickel were charged. After purging the vapor phase moiety with hydrogen gas, the mixed solution was stirred at 60° C. under atmospheric pressure while continuously supplying hydrogen. As the time passed, the reaction solution was sampled and analyzed by means of a gas chromatograph. As a result, it was confirmed that 2,3,5,6-tetrafluorobenzyl alcohol was produced together with 2,3,5,6-tetrafluorobenzaldehyde. The yields in the reaction solution are shown in the table below.

reactant | 2,3,5,6-tetrafluorobenzonitrile | 5.00 g | FC1=C(C#N)C(=C(C=C1F)F)F | C7HF4N
reactant | methanol | 51.00 g | CO | CH4O
reactant | water | 52.00 g | O | H2O
catalyst | nickel | 0.50 g | [Ni] | Ni
solvent | acetic acid | 45.00 g | C(C)(=O)O | C2H4O2
product | 2,3,5,6-tetrafluorobenzaldehyde | FC1=C(C=O)C(=C(C=C1F)F)F | C7H2F4O
